US07750040B2
3-Phenyl-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]-pentalen-4-yl)-propan-1-one is prepared by reacting (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]penta-lene-4-carboxylic acid methoxy-methyl-amide with phenethyl magnesium chloride in analogy to Example 48; LC-MS: tR=1.15, [m+1]+=311.00.

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]penta-lene-4-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C)C | C14H19NO2S
reactant | phenethyl magnesium chloride | C(CC1=CC=CC=C1)[Mg]Cl
product | 3-Phenyl-1-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]-pentalen-4-yl)-propan-1-one | C1(=CC=CC=C1)CCC(=O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C20H22OS
